US08124641B2
[4-(3-Fluoro-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester (prepared by the method analogous to example 1-1, 200 mg, 0.44 mmol), sodium hydride (60% dispersed in mineral oil, 89 mg, 2.22 mmol) and ethanol (202 mg, 4.4 mmol) were dissolved in N,N-dimethylformamide (2 mL). The mixture was heated in a microwave oven at 150° C. for 40 minutes. The resulting mixture was acidified with 0.1N hydrochloric acid to pH 5 and extracted with ethyl acetate. The organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash column (gradient elution, 0-5% methanol in dichloromethane) to afford [4-(3-ethoxy-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester (180 mg, 78%). MS cald. for C20H24F3N3O5S 475, obsd. (ESI+) [(M+H)+] 476.

reactant | [4-(3-Fluoro-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester | C(C)OC(CN1N=CC=2C(CCCC12)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)F)=O | C18H19F4N3O4S
reactant | sodium hydride | 2.22 mmol, 89 mg | [H-].[Na+]
reactant | ethanol | 4.4 mmol, 202 mg | C(C)O | C2H6O
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | [4-(3-ethoxy-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester | 180 mg, 78% | C(C)OC(CN1N=CC=2C(CCCC12)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)OCC)=O | C20H24F3N3O5S
